US04110447
A solution of 2.63 g of 1-isopropylimino-3-p-biphenylyl-2-butene (obtainable from 3-p-biphenylyl-2-butenal and isopropylamine) in 20 ml of absolute ether is added dropwise to a solution of 0.6 g of LiAlH4 in 20 ml of absolute ether. The mixture is then boiled for 5 hours, water is added carefully and the mixture is worked up in the customary manner to give 1-isopropylamino-3-p-biphenylyl-2-butene.

reactant | 1-isopropylimino-3-p-biphenylyl-2-butene | 2.63 g | C(C)(C)N=CC=C(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C19H21N
reactant | LiAlH4 | 0.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-isopropylamino-3-p-biphenylyl-2-butene | C(C)(C)NCC=C(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C19H23N
